US08957069B2
1-[4-(Difluoromethoxy)phenyl]-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (436 mg, 1.50 mmol) synthesized in Reference example 96 and 1-bromo-4-(difluoromethoxy)benzene (524 mg, 2.25 mmol), the reaction was carried out in the same manner as Reference example 59 to synthesize the title compound 12.9 mg (yield 1%). Melting point was 151 to 152° C. (hexane).

reactant | 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.50 mmol, 436 mg | COC1=C(C(=C(C=2CC(OC21)(C)C)C)N2CCNCC2)C | C17H26N2O2
reactant | 1-bromo-4-(difluoromethoxy)benzene | 2.25 mmol, 524 mg | BrC1=CC=C(C=C1)OC(F)F | C7H5BrF2O
product | 1-[4-(Difluoromethoxy)phenyl]-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 12.9 mg, yield 1% | FC(OC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)OC)C)F | C24H30F2N2O3
